*SPICE 03255.eps
C1 2 0 1000p
D1 1 2 d
C2 4 1 1000p
D2 0 1 d
V1 4 0 type=vdc vdc=0 type=SIN vo=0 va=5 freq=1k
.model diode d
.op
.tran tstep=0.01m tstop=5m
